US05153227
(4-Aminophenylsulphonyl)nitromethane (0.96 g, 4.44 mmol) was suspended in ether (50 ml). Acetic formic anhydride (1.0 g, 11.36 mmol) was added dropwise and the reaction mixture was stirred for 16 hours. The white precipitate was collected by filtration and triturated with ether (50 ml). There was thus obtained (4-formamidophenylsulphonyl)nitromethane (0.98 g, 90% yield), m.p. 192°-193° C. (after recrystallisation from aqueous methanol); microanalysis, found: C, 39.3; H, 3.1; N, 11.4%; C8H8N2O5S requires: C, 39.3; H, 3.3; N, 11.5%.

reactant | (4-Aminophenylsulphonyl)nitromethane | 4.44 mmol, 0.96 g | NC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C7H8N2O4S
reactant | Acetic formic anhydride | 11.36 mmol, 1.0 g | C(=O)OC(C)=O | C3H4O3
reactant | methanol | CO | CH4O
solvent | ether | 50 ml | CCOCC | C4H10O
product | (4-formamidophenylsulphonyl)nitromethane | 0.98 g, 90% yield | C(=O)NC1=CC=C(C=C1)S(=O)(=O)C[N+](=O)[O-] | C8H8N2O5S
